US05387710
A solution of benzylamine (8.18 g) in benzene (100 ml) was added dropwise to a suspension of 8,9-dihydro-3-nitro-5H-benzocyclohepten-5-one (15.51 g) in ethanol (155 ml) at ambient temperature over 20 minutes. The resulting mixture was stirred at the same temperature for 3 hours 30 minutes, allowed to stand at the same temperature overnight, and filtered. The filtrate was evaporated in vacuo to afford 7-benzylamino-3-nitro-6,7,8,9-tetrahydro-5H-benzocyclohepten-5-one (25.41 g) as a dark brown oil.

reactant | benzylamine | 8.18 g | C(C1=CC=CC=C1)N | C7H9N
reactant | 8,9-dihydro-3-nitro-5H-benzocyclohepten-5-one | 15.51 g | [N+](=O)([O-])C1=CC2=C(CCC=CC2=O)C=C1 | C11H9NO3
solvent | benzene | 100 ml | C1=CC=CC=C1 | C6H6
solvent | ethanol | 155 ml | C(C)O | C2H6O
product | 7-benzylamino-3-nitro-6,7,8,9-tetrahydro-5H-benzocyclohepten-5-one | 25.41 g | C(C1=CC=CC=C1)NC1CC(C2=C(CC1)C=CC(=C2)[N+](=O)[O-])=O | C18H18N2O3
